US08304443B2
Tert-butyl 3-chloro-6-(2-(dibenzylamino)ethoxy)indazole-1-carboxylate
Tert-butyl 3-chloro-6-hydroxyindazole-1-carboxylate (4.3611 g) which can be prepared according to the method described in Reference example 39, etc. and 2-(dibenzylamino)ethanol (4.1529 g; manufactured by Tokyo Chemical Industry Co., Ltd.) were dissolved in dehydrated THF (100 mL), added with triphenylphosphine (7.9370 g; manufactured by Kanto Chemical Co., Inc.) and TMAD (5.2270 g; manufactured by Masuda Chemical Industries Co., Ltd.), and then stirred overnight at room temperature. The reaction solution was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in toluene, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (“COLUMN-D”; n-hexane:ethyl acetate=90:10→75:25) to obtain the title compound (7.1028 g).

reactant | Tert-butyl 3-chloro-6-hydroxyindazole-1-carboxylate | 4.3611 g | ClC1=NN(C2=CC(=CC=C12)O)C(=O)OC(C)(C)C | C12H13ClN2O3
reactant | 2-(dibenzylamino)ethanol | 4.1529 g | C(C1=CC=CC=C1)N(CCO)CC1=CC=CC=C1 | C16H19NO
reactant | triphenylphosphine | 7.9370 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMAD | 5.2270 g | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-chloro-6-(2-(dibenzylamino)ethoxy)indazole-1-carboxylate | 7.1028 g | ClC1=NN(C2=CC(=CC=C12)OCCN(CC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H30ClN3O3
